US04171318
2Z,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-furyl)pentadien-1-ol
A solution of crude ethyl 2Z,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-furyl)pentadienoate in ether was stirred under argon and cooled to -45° C. Diisobutylaluminum hydride (DIBAH) (112 mmol) was added slowly until no starting material remained. Five ml. of a saturated solution of sodium sulfate was added at -10° C. and the mixture was allowed to warm to 30° C. for a completion of hydrolysis. Filtration through Celite and evaporation gave 12 g. of 2Z,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-furyl)pentadien-1-ol which was carried on to the next step without further purification.

reactant | ethyl 2Z,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-furyl)pentadienoate | F\C(\C(=O)OCC)=C(/C=C/C1=C(OC(=C1C)C)C)\C | C15H19FO3
reactant | Diisobutylaluminum hydride | 112 mmol | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2Z,4E-2-fluoro-3-methyl-5-(2,4,5-trimethyl-3-furyl)pentadien-1-ol | F\C(=C/O)\C(=C\CC1=C(OC(=C1C)C)C)\C | C13H17FO2
